US07015218B1
N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-fluorophenyl)pyrrole-3-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-fluorophenyl)pyrrole-3-carboxylic acid (0.5 g) and 5-amino-2-(4-morpholinopiperidin-1-yl) benzonitrile (0.7 g), the title compound (0.4 g) was obtained, melting point: 182–183° C.

reactant | 1-(4-fluorophenyl)pyrrole-3-carboxylic acid | 0.5 g | FC1=CC=C(C=C1)N1C=C(C=C1)C(=O)O | C11H8FNO2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl) benzonitrile | 0.7 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-fluorophenyl)pyrrole-3-carboxamide | 0.4 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C1=CN(C=C1)C1=CC=C(C=C1)F | C27H28FN5O2
